US07906677B2
12 g (67 mmol) of 2,6-dichloro-4-methylphenol are dissolved in 25 ml of 2-propanol followed by the addition of 10.5 g (76 mmol) of potassium carbonate and 12.8 g (70 mmol) of 2-chloro-N-(4-methylphenyl)acetamide. The mixture is refluxed for 4 h. At this time, the formation of A: 2-(2′,6′-dichloro-4′-methylphenoxy)-N-(4-methylphenyl)acetamide is completed. 13.6 ml of sodium methylate solution 30% in methanol are slowly added and the temperature is increased to about 85° C. by distilling 25 ml of solvent. The mixture is stirred 2 h more to complete the formation of B. 25 ml of water are added at 70° C. to obtain a 2 phases solution. The lower layer is discarded. The upper layer is diluted with 20 ml of heptane-fraction and washed with 2×20 ml of water. The organic phase is separated and concentrated in vacuo to obtain N-(2′,6′-dichloro-4′-methylphenyl)-4-methylaniline as a crude oil. GC/MS: 265 (100, M+), 195 (130).

reactant | 2,6-dichloro-4-methylphenol | 67 mmol, 12 g | ClC1=C(C(=CC(=C1)C)Cl)O | C7H6Cl2O
reactant | potassium carbonate | 76 mmol, 10.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-chloro-N-(4-methylphenyl)acetamide | 70 mmol, 12.8 g | ClCC(=O)NC1=CC=C(C=C1)C | C9H10ClNO
reactant | 2-(2′,6′-dichloro-4′-methylphenoxy)-N-(4-methylphenyl)acetamide | ClC1=C(OCC(=O)NC2=CC=C(C=C2)C)C(=CC(=C1)C)Cl | C16H15Cl2NO2
reactant | sodium methylate | 13.6 ml | C[O-].[Na+]
solvent | 2-propanol | 25 ml | CC(C)O | C3H8O
solvent | methanol | CO | CH4O
solvent | heptane | 20 ml | CCCCCCC | C7H16
product | N-(2′,6′-dichloro-4′-methylphenyl)-4-methylaniline | ClC1=C(C(=CC(=C1)C)Cl)NC1=CC=C(C=C1)C | C14H13Cl2N
